### PR TITLE
[Merged by Bors] - feat: reduce FLT to odd primes

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/FLT/OfOddPrimes.lean [hunk 1]
```diff
@@ -0,0 +1,25 @@
...
+
+/-!
+# Reduce Fermat's Last Theorem to odd primes
+
+To prove Fermat's Last Theorem, it suffices to prove it for odd prime exponents, and the well-known
+case of exponent 4 (`fermatLastTheoremFour`).
+-/
+
+theorem FermatLastTheoremWith.of_odd_primes
+    (hprimes : ∀ p : ℕ, Nat.Prime p → Odd p → FermatLastTheoremWith ℕ p) : FermatLastTheorem := by
```
Comment (tb65536) [inline Mathlib/NumberTheory/FLT/OfOddPrimes.lean:17]: Is there any way to make `FermatLastTheorem` be Fermat's last theorem and `FermatLastTheorem p` be Fermat's last theorem with exponent p? It feels a bit silly to have to write `FermatLastTheoremWith ℕ p` when the N, Z, and Q versions are all equivalent.

File: Mathlib/Data/Nat/Factors.lean [hunk 2]
```diff
@@ -300,6 +300,23 @@ theorem eq_two_pow_or_exists_odd_prime_and_dvd (n : ℕ) :
...
+      2 ^ k
+      _ = 2 ^ 2 * 2 ^ (k - 2) := (pow_mul_pow_sub _ ?_).symm
+      _ = 4 * 2 ^ (k - 2) := rfl
+
+    rcases k with (_ | _ | _)
+    · apply n2.not_le.elim
+      decide
+    · apply n2.not_le.elim
+      decide
+    · exact le_add_self
```
Comment (tb65536) [inline Mathlib/Data/Nat/Factors.lean:317]:
```suggestion
  obtain ⟨_ | _ | k, rfl⟩ | ⟨p, hp, hdvd, hodd⟩ := n.eq_two_pow_or_exists_odd_prime_and_dvd
  · contradiction
  · contradiction
  · simp [pow_succ, mul_assoc]
```

File: Mathlib/Data/Nat/Factors.lean [hunk 3]
```diff
@@ -300,6 +300,23 @@ theorem eq_two_pow_or_exists_odd_prime_and_dvd (n : ℕ) :
           hprime.eq_two_or_odd'.resolve_right fun hodd => H ⟨_, hprime, hdvd, hodd⟩⟩
 #align nat.eq_two_pow_or_exists_odd_prime_and_dvd Nat.eq_two_pow_or_exists_odd_prime_and_dvd
 
+theorem four_dvd_or_exists_odd_prime_and_dvd_of_two_lt {n : ℕ} (n2 : 2 < n) :
+    4 ∣ n ∨ ∃ p, p ∣ n ∧ Prime p ∧ Odd p := by
```
Comment (tb65536) [inline Mathlib/Data/Nat/Factors.lean:304]: It would be nice to either make the ordering of this lemma match the previous, either by changing the previous lemma or by changing this lemma.

File: Mathlib/NumberTheory/FLT/OfOddPrimes.lean (hunk 1 above)
Comment (tb65536) [reply Mathlib/NumberTheory/FLT/OfOddPrimes.lean:17]: Here's the best I can come up with: https://github.com/leanprover-community/mathlib4/pull/7494
Not sure whether it's the best approach though

File: Mathlib/NumberTheory/FLT/OfOddPrimes.lean [hunk 4]
```diff
@@ -0,0 +1,25 @@
...
+import Mathlib.NumberTheory.FLT.Four
+
+/-!
+# Reduce Fermat's Last Theorem to odd primes
+
+To prove Fermat's Last Theorem, it suffices to prove it for odd prime exponents, and the well-known
+case of exponent 4 (`fermatLastTheoremFour`).
+-/
+
+theorem FermatLastTheoremWith.of_odd_primes
```
Comment (tb65536) [inline Mathlib/NumberTheory/FLT/OfOddPrimes.lean:16]: Another option would be to place this result in the `FLT.Four` file, as a corollary of the main theorem.

File: Mathlib/NumberTheory/FLT/Four.lean [hunk 5]
```diff
@@ -311,3 +311,16 @@ theorem fermatLastTheoremFour : FermatLastTheoremFor 4 := by
...
 #align not_fermat_4 fermatLastTheoremFour
+
+/--
+To prove Fermat's Last Theorem, it suffices to prove it for odd prime exponents, and the case of
+exponent 4 proved above.
+-/
+theorem FermatLastTheorem.of_odd_primes
+    (hprimes : ∀ p : ℕ, Nat.Prime p → Odd p → FermatLastTheoremFor p) : FermatLastTheorem := by
+  intro n h
+  rw [ge_iff_le, Nat.succ_le_iff] at h
```
Comment (tb65536) [inline Mathlib/NumberTheory/FLT/Four.lean:322]: Would it make sense to change the definition of FLT to `2 < n`?

**Review by tb65536 — APPROVED** [review]
LGTM

File: Mathlib/NumberTheory/FLT/Four.lean (hunk 5 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/FLT/Four.lean:322]: Looking at the library it seems we use `odd` (for example [Nat.Prime.eq_two_or_odd'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Nat/Prime.html#Nat.Prime.eq_two_or_odd')), so I guess it makes sense to use it also here.

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors merge

File: Mathlib/NumberTheory/FLT/Four.lean (hunk 5 above)
Comment (tb65536) [reply Mathlib/NumberTheory/FLT/Four.lean:322]: Sorry, odd is totally fine. I was meaning something like this: #7869
